US06136821
6-(4-carboxyphenyl)-8-(4-benzo[c]furazanyl)-1,7-naphthyridine
To a solution of 6-(4-carboxyphenyl)-8-methoxy-1,7-naphthyridine (250 mg, 0.892 mmol) in DMF (10 ml) is added PBr3 (0.63 ml, 6.63 mmol). The reaction mixture is heated to 100° C. for 30 min. Then, the suspension is poured into water (50 ml) and the solution washed with ethyl acetate (2×50 ml). The organic solvent is removed and the crude product stirred in ether. The suspension is filtered to yield the title compound (215 mg). Melting point 248-250, decomposition.

reactant | 6-(4-carboxyphenyl)-8-methoxy-1,7-naphthyridine | 0.892 mmol, 250 mg | C(=O)(O)C1=CC=C(C=C1)C=1C=C2C=CC=NC2=C(N1)OC | C16H12N2O3
reactant | PBr3 | 6.63 mmol, 0.63 ml | P(Br)(Br)Br | Br3P
reactant | water | 50 ml | O | H2O
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-(4-carboxyphenyl)-8-(4-benzo[c]furazanyl)-1,7-naphthyridine | 215 mg | C(=O)(O)C1=CC=C(C=C1)C=1C=C2C=CC=NC2=C(N1)C1=CC=CC2=NON=C21 | C21H12N4O3
